US05698554
1.0 g of 10% palladium carbon (Pd/C) and 9.0 g of ammonium formate were added to a methanol solution (100 ml) containing 2.0 g of 6-[2-chloro-5-(4-aminobutyl)phenyl]-4,5-dihydropyridazin-3(2H)-one. The resulting suspension was refluxed under heating for 12 hours. The suspension was left to stand for cooling and then filtered, and the filtrate was removed. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol-28% aqueous ammonia (50:10:1)) to obtain 1.3 g of 6-[5-(4-aminobutyl)phenyl]-4,5-dihydropyridazin-3(2H)-one.

reactant | ammonium formate | 9.0 g | C(=O)[O-].[NH4+]
reactant | 6-[2-chloro-5-(4-aminobutyl)phenyl]-4,5-dihydropyridazin-3(2H)-one | 2.0 g | ClC1=C(C=C(C=C1)CCCCN)C=1CCC(NN1)=O | C14H18ClN3O
catalyst | palladium carbon | 1.0 g | [C].[Pd]
solvent | methanol | 100 ml | CO | CH4O
product | 6-[5-(4-aminobutyl)phenyl]-4,5-dihydropyridazin-3(2H)-one | 1.3 g | NCCCCC=1C=CC=C(C1)C=1CCC(NN1)=O | C14H19N3O
